US08729081B2
To a solution of 1-((2-(4-chlorophenyl)-5-methyloxazol-4-yl)methyl)piperidine-4-carboxylic acid (A-3, 70 mg, 0.52 mmole), 3-(azepan-1-yl)-N-methylpropan-1-amine (20 mg) and DIPEA (0.05 mL) in DMF (2 mL) was added EDC (35 mg). The reaction solution was stirred at room temperature for 12 hours. The reaction was diluted with EtOAc (30 mL). The organic layer was washed with saturated sodium bicarbonate (10 mL), water (10 mL) and dried over anhydrous magnesium sulfate. After filtration and concentration, the residue was purified through chromatography (CH2Cl2:MeOH 10:1) to give N-(3-(azepan-1-yl)propyl)-1-((2-(4-chlorophenyl)-5-methyloxazol-4-yl)methyl)-N-methylpiperidine-4-carboxamide (42 mg, 82%). H1NMR (300 MHz, CDCl3), ppm: 7.97 (d, 2H), 7.48 (d, 2H), 3.80 (m, 1H), 3.63 (m, 2H), 3.45 (m, 2H), 3.31-3.14 (m, 7H), 2.75 (s, 3H), 2.44 (m, 4H), 2.01 (m, 2H), 1.85 (m, 10H), 1.30 (m, 2H), 1.26 (m, 2H). MS (ESI+) M/z: 487, 489 (M+H).

reactant | 1-((2-(4-chlorophenyl)-5-methyloxazol-4-yl)methyl)piperidine-4-carboxylic acid | 0.52 mmole, 70 mg | ClC1=CC=C(C=C1)C=1OC(=C(N1)CN1CCC(CC1)C(=O)O)C | C17H19ClN2O3
reactant | 3-(azepan-1-yl)-N-methylpropan-1-amine | 20 mg | N1(CCCCCC1)CCCNC | C10H22N2
reactant | DIPEA | 0.05 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDC | 35 mg
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | N-(3-(azepan-1-yl)propyl)-1-((2-(4-chlorophenyl)-5-methyloxazol-4-yl)methyl)-N-methylpiperidine-4-carboxamide | 42 mg, 82% | N1(CCCCCC1)CCCN(C(=O)C1CCN(CC1)CC=1N=C(OC1C)C1=CC=C(C=C1)Cl)C | C27H39ClN4O2
